US07109354B2
b) (4-Iodo-5-methyl-pyridin-3-yl)-carbamic acid tert-butyl ester
(5-Methyl-pyridin-3-yl)-carbamic acid tert-butyl ester (255 mg, 1.2 mmol, Example 139: step a) and trimethylethylenediamine (905 μL, 6.0 mmol) were dissolved into THF (4 mL) and cooled to −78° C. To this was added n-Butyllithium (2.5M, 2.4 mL, 6.0 mmol). The reaction was stirred at −78° C. for 30 minutes and then warmed to RT for 30 minutes. Iodine (1.5 g, 6.0 mmol) was dissolved into THF (4 mL) and added to the reaction mixture at −78° C. slowly. The reaction was warmed to RT for 1 hour and the solvents were removed in vacuo. The residue was dissolved into EtOAc and washed with brine and water. The combined organic layers were dried (MgSO4) and solvents were removed in vacuo followed by purification by flash column chromatography (SiO2) (50% EtOAc in hexanes) that yielded the title compound as a yellow solid (55 mg, 14%). 1H-NMR (CDCl3): δ 8.91 (s, 1H), 8.07 (s, 1H), 6.81 (br s, 1H), 2.44 (s, 3H), 1.56 (s, 9H). ESI-MS (m/z): Calcd. for C11H15IN2O2: 335.0 (M+1); found: 334.9.

reactant | (5-Methyl-pyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=NC=C(C1)C)=O | C11H16N2O2
reactant | trimethylethylenediamine | 6.0 mmol, 905 μL | CNCCN(C)C | C5H14N2
reactant | n-Butyllithium | 6.0 mmol, 2.5M, 2.4 mL | C(CCC)[Li]
reactant | Iodine | 6.0 mmol, 1.5 g | II | I2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (4-Iodo-5-methyl-pyridin-3-yl)-carbamic acid tert-butyl ester | 55 mg, 14% | C(C)(C)(C)OC(NC=1C=NC=C(C1I)C)=O | C11H15IN2O2
